US08309581B2
2-[2-(2-Chloro-benzyloxy)-pyridin-3-yl]-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole
The title compound was prepared in analogy to Example 1, from 2-(2-chloro-pyridin-3-yl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole (Ex. 1, intermediate a) and (2-chloro-phenyl)-methanol (CAS Reg. No. 17849-38-6). Light yellow solid (48%). MS (Turbo Spray): m/z=468.2 (M+H).

reactant | 2-(2-chloro-pyridin-3-yl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | ClC1=NC=CC=C1C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C19H18ClF2N3
reactant | (2-chloro-phenyl)-methanol | ClC1=C(C=CC=C1)CO | C7H7ClO
product | 2-[2-(2-Chloro-benzyloxy)-pyridin-3-yl]-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | ClC1=C(COC2=NC=CC=C2C2=NC3=C(N2CC2CCCCC2)C=C(C(=C3)F)F)C=CC=C1 | C26H24ClF2N3O
